US05972975
A solution of 213 mg (1.06 mmol) of 4,6-dimethyl-2-(2,5-dimethylpyrrol-1-yl)pyridine in 1.2 mL of ethyl ether was added over a 5 min period to a -25° C. solution prepared from 1.2 mL of ethyl ether and 0.75 mL (1.09 mmol) of 1.45 M n-butyllithium in hexane. The mixture was stirred for 5 min at -25° C. and then allowed to warm to -5° C. over 10 min. Allyl bromide (0.105 mL, 147 mg, 1.21 mmol) was added and the mixture was allowed to warm to 10° C. over 1 h. Saturated aqueous ammonium chloride (10 mL) was added and the mixture was extracted with 20 mL of ethyl acetate. The organic layer was washed with 10 mL of saturated aqueous sodium chloride, dried (sodium sulfate), decanted, and evaporated. Column chromatography on 20 g of silica gel eluting with 5% ethyl acetate in hexane gave 175 mg (68% yield) of 6-(3-buten-1-yl)-4-methyl-2-(2,5-dimethylpyrrol-1-yl)pyridine as a colorless oil.

reactant | 4,6-dimethyl-2-(2,5-dimethylpyrrol-1-yl)pyridine | 1.06 mmol, 213 mg | CC1=CC(=NC(=C1)C)N1C(=CC=C1C)C | C13H16N2
reactant | n-butyllithium | 1.09 mmol, 1.45 M, 0.75 mL | C(CCC)[Li]
reactant | Allyl bromide | 1.21 mmol, 0.105 mL, 147 mg | C(C=C)Br | C3H5Br
reactant | ammonium chloride | 10 mL | [Cl-].[NH4+]
solvent | ethyl ether | 1.2 mL | C(C)OCC | C4H10O
solvent | hexane | CCCCCC | C6H14
solvent | ethyl ether | 1.2 mL | C(C)OCC | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-(3-buten-1-yl)-4-methyl-2-(2,5-dimethylpyrrol-1-yl)pyridine | 175 mg, 68% yield | C(CC=C)C1=CC(=CC(=N1)N1C(=CC=C1C)C)C | C16H20N2
